US07625922B2
Method H1 (in Pyridine). 7-(4-Aminophenoxy)-2,3-dihydro-2-oxo-1H-imidazo[4,5-b]pyridine (65 mg, 0.27 mmol) was suspended in dry pyridine (3 mL) and heated at 50° C. Phenyl isocyanate (30 μL, 0.28 mmol) was added; the solution became clear. The reaction mixture was heated at reflux for 2 hours, then it was allowed to cool at room temperature. DCM (20 mL) was added, the precipitate formed was recovered by filtration and washed with more DCM, to afford 1-(4-(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]pyridin-7-yl-oxy)phenyl)-3-phenyl-urea (67 mg, 69%). 1H-NMR (δ, ppm, DMSO-d6): 6.34 (d, 1H, HPy,5, J=7.5 Hz), 6.98 (t, 1H, Harom,Ph′,4, J=7.5 Hz), 7.13 (d, 2H, Harom,Ph,3+5, J=8.75 Hz), 7.29 (t, 2H, Harom,Ph′,3+5), 7.46 (d, 2H, Harom,Ph′,2+6), 7.53 (d, 2H, Harom,Ph,2+6), 7.76 (d, 1H, HPy,6) 8.67 (s, 1H, NHurea,1), 8.76 (s, 1H, NHurea,3), 11.19 (s, 1H, NHPy3), 11.35 (s, 1H, NHPy2). LC-MS (m/z): 362 (M+H, 100).

reactant | 7-(4-Aminophenoxy)-2,3-dihydro-2-oxo-1H-imidazo[4,5-b]pyridine | 0.27 mmol, 65 mg | NC1=CC=C(OC2=C3C(=NC=C2)NC(N3)=O)C=C1 | C12H10N4O2
reactant | Phenyl isocyanate | 0.28 mmol, 30 μL | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 1-(4-(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]pyridin-7-yl-oxy)phenyl)-3-phenyl-urea | 67 mg, 69% | O=C1NC=2C(=NC=CC2OC2=CC=C(C=C2)NC(=O)NC2=CC=CC=C2)N1 | C19H15N5O3
